US08492560B2
A mixture of the crude 7-benzyloxy-4-chloro-6-methoxyquinazoline, potassium carbonate (50 g, 362 mmol) and 4-chloro-2-fluorophenol (8.8 ml, 83 mmol) in DMF (500 ml) was stirred at 100° C. for 5 hours then allowed to cool to ambient temperature overnight. The reaction mixture was poured into water (2 l) and was stirred at ambient temperature for a few minutes. The crude solid was collected by filtration washing with water. The resultant solid was dissolved in dichloromethane and filtered through diatomaceous earth. The filtrate was treated with decolourising charcoal, boiled for a few minutes then filtered through diatomaceous earth. The filtrate was filtered through phase separating paper and then evaporated under vacuum to give a solid residue which was triturated with ether, filtered and dried to give 7-benzyloxy-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline (23.2 g, 76%).

reactant | 7-benzyloxy-4-chloro-6-methoxyquinazoline | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
reactant | potassium carbonate | 362 mmol, 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-chloro-2-fluorophenol | 83 mmol, 8.8 ml | ClC1=CC(=C(C=C1)O)F | C6H4ClFO
reactant | water | 2 l | O | H2O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 7-benzyloxy-4-(4-chloro-2-fluorophenoxy)-6-methoxyquinazoline | 23.2 g, 76% | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)OC1=C(C=C(C=C1)Cl)F)OC | C22H16ClFN2O3
